US07091214B2
Butyryl chloride (1.1 equivalent) was slowly added to a stirred solution of 7-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine (52.9 g, 0.18 mol.) in pyridine (700 mL) at room temperature. A pale yellow precipitate formed and then went into solution. The reaction mixture was heated at reflux for eight hours, and then allowed to slowly cool to room temperature over the weekend. The dark gold, turbid reaction mixture was concentrated under reduced pressure. The residue was dissolved in 1 N hydrochloric acid and then adjusted to pH 14 with the addition of 10% aqueous sodium hydroxide. A precipitate formed, was isolated by filtration, washed with water (3×100 mL), and dried overnight on the filter funnel to provide 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline as an off-white solid.

reactant | Butyryl chloride | 1.1 equivalent | C(CCC)(=O)Cl | C4H7ClO
reactant | 7-bromo-N4-(2-methylpropyl)quinoline-3,4-diamine | 0.18 mol, 52.9 g | BrC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C13H16BrN3
solvent | pyridine | 700 mL | N1=CC=CC=C1 | C5H5N
catalyst | gold | [Au] | Au
product | 7-bromo-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinoline | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)CCC | C17H20BrN3
